US09238640B2
To a solution of 3,5-dimethyl-phenol (3.000 g, 24.55 mmol) in N,N-dimethylformamide (120 mL) under nitrogen were added potassium carbonate (16.96 g, 122.7 mmol) and (2-bromoethoxy)-tert-butyldimethylsilane (7.90 mL, 36.8 mmol). The resulting slurry was heated at reflux for 20 hours; then, the solvent was removed under high vacuum. The residue was dissolved in ethyl acetate and the solution was backwashed with 0.2 N aqueous sodium hydroxide, water, and then brine, dried over sodium sulfate, and concentrated. The crude material (5.69 g) was purified by column chromatography (silica gel 230-400 mesh; methylene chloride as eluent) to give tert-butyl-[2-(3,5-dimethyl-phenoxy)-ethoxy]-dimethylsilane as light yellow oil. Yield: 3.72 g (47%).

reactant | 3,5-dimethyl-phenol | 24.55 mmol, 3.000 g | CC=1C=C(C=C(C1)C)O | C8H10O
reactant | potassium carbonate | 122.7 mmol, 16.96 g | C([O-])([O-])=O.[K+].[K+]
reactant | (2-bromoethoxy)-tert-butyldimethylsilane | 36.8 mmol, 7.90 mL | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | N,N-dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
product | tert-butyl-[2-(3,5-dimethyl-phenoxy)-ethoxy]-dimethylsilane | C(C)(C)(C)[Si](C)(C)OCCOC1=CC(=CC(=C1)C)C | C16H28O2Si
